US07858632B2
To a solution of 5-isopropyl-6-methoxy-2,3-dihydro-benzo[1,4]dioxine (1.011 g, 4.9 mmol) in 15 ml CH2Cl2 at −78° C. was added BBr3 (7.3 ml, 7.3 mmol). The solution was allowed to warm to room temperature. After 16 hours the solution was cooled to −78° C., quenched with H2O, warmed to room temperature and extracted with CH2Cl2. The combined organics were washed with brine, dried over MgSO4, filtered and concentrated in vacuo. Purification via flash chromatography (7:3 hexane/ethyl acetate) afforded 5-isopropyl-6hydroxy-2,3-dihydro-benzo[1,4]dioxine (0.622 g, 63%) as a pale yellow oil.

reactant | 5-isopropyl-6-methoxy-2,3-dihydro-benzo[1,4]dioxine | 4.9 mmol, 1.011 g | C(C)(C)C1=C(C=CC=2OCCOC21)OC | C12H16O3
reactant | BBr3 | 7.3 mmol, 7.3 ml | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 15 ml | C(Cl)Cl | CH2Cl2
product | 5-isopropyl-6hydroxy-2,3-dihydro-benzo[1,4]dioxine | 0.622 g, 63% | C(C)(C)C1=C(C=CC=2OCCOC21)O | C11H14O3
